US07626021B2
2,3-Difluoro-5-iodo-N,N-dimethyl-benzamide (2.36 g, 7.6 mmol) and trans-4-amino-cyclohexanol (3.5 g, 30 mmol) were stirred at 120° C. for 5 hrs. The resulting solid was dissolved in 1 N hydrochloric acid and dichloromethane. The aqueous layer was extracted with dichloromethane twice. The combined organic phases were washed with saturated aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated to give 2.8 g (6.84 mmol, 91%) of 3-fluoro-2-(4-hydroxy-cyclohexylamino)-5-iodo-N,N-dimethyl-benzamide as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 7.45 (dd, J=12 Hz, J2=2 Hz, 1H), 7.15 (s, 1H), 4.57 (dd, J=10 Hz, J2=3 Hz, 1H), 4.50 (d, J=4.5 Hz, 1H), 3.33 (m, 1H), 3.02 (m, 1H), 2.94 (bs, 3H), 2.81 (bs, 3H), 1.74 (m, 4H), 1.04-1.24 (m, 4H); MS: m/z 407 [MH+]

reactant | 2,3-Difluoro-5-iodo-N,N-dimethyl-benzamide | 7.6 mmol, 2.36 g | FC1=C(C(=O)N(C)C)C=C(C=C1F)I | C9H8F2INO
reactant | trans-4-amino-cyclohexanol | 30 mmol, 3.5 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-fluoro-2-(4-hydroxy-cyclohexylamino)-5-iodo-N,N-dimethyl-benzamide | 6.84 mmol, 2.8 g, 91% | FC=1C(=C(C(=O)N(C)C)C=C(C1)I)NC1CCC(CC1)O | C15H20FIN2O2
